US05646173
0.97 ml of methanesulfonyl chloride was added dropwise while stirring to a solution, cooled to 0°, of 1.55 g of (S)-1-(7-chloro-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-propan-2-ol and 3.5 ml of triethyl-amine in 40 ml of diohloromethane and the mixture was stirred at this temperature for an additional 1.5 hours. The reaction mixture was subsequently diluted with 200 ml of dichloromethane, washed twice with 70 ml of saturated sodium hydrogen carbonate solution each time and the combined aqueous phases were extracted once with 70 ml of dichloromethane. The combined organic phases were washed to 70 ml of saturated sodium chloride solution, dried over magnesium sulfate and evaporated in a vacuum. The brown oil obtained was dissolved in 30 ml of anhydrous dimethylformamide, treated with 815 mg of sodium azide and the reaction mixture was heated to 60° for 17 hours while stirring. After cooling, the solution was poured into 140 ml of water and extracted twice with 140 ml of ethyl acetate each time. The combined organic phases were washed once with 140 ml of water and once with 140 ml of saturated sodium chloride solution, dried over magnesium sulfate and the solution was concentrated in a vacuum. The brown oil obtained was purified by column chromatography on silica gel (toluene). 833 mg (49%) of (R)-1-(2-azido-propyl)-7-chloro-1,4-dihydro-indeno[1,2-b]pyrrole were obtained as an oil.

reactant | methanesulfonyl chloride | 0.97 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | (S)-1-(7-chloro-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-propan-2-ol | 1.55 g | ClC1=CC=C2CC3=C(N(C=C3)C[C@H](C)O)C2=C1 | C14H14ClNO
reactant | triethyl-amine | 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | sodium azide | 815 mg | [N-]=[N+]=[N-].[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 140 ml | O | H2O
product | (R)-1-(2-azido-propyl)-7-chloro-1,4-dihydro-indeno[1,2-b]pyrrole | 833 mg, 49% | N(=[N+]=[N-])[C@@H](CN1C2=C(C=C1)CC1=CC=C(C=C12)Cl)C | C14H13ClN4
